US05593984
Preparation of 7-amino-3-(pyrrolo-[1,2-a]pyrazinium-2-yl)methyl-3-cephem-4-carboxylate.
2.5 g of 7-amino-3-iodomethyl-3-cephem-4-carboxylate was suspended in 30 ml of acetonitrile; and 2 ml bistrimethyl-silylacetamide was added thereto. To the mixture was added 2 g of pyrrolo[1,2-a]pyrazine prepared in Preparation Example 1. The reaction mixture was reacted at 10° C. for 1 hour and then cooled to 0° C. To this solution was added 0.6 ml of water; and the resulting mixture was filtered and then washed with 30 ml of cold acetonitrile to obtain 2.4 g of light yellow title compound (yield: 93%).

reactant | 7-amino-3-iodomethyl-3-cephem-4-carboxylate | 2.5 g | NC1[C@@H]2N(C(=C(CS2)CI)C(=O)[O-])C1=O
reactant | pyrrolo[1,2-a]pyrazine | 2 g | C=1C=2N(C=CN1)C=CC2 | C7H6N2
reactant | water | 0.6 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 7-amino-3-(pyrrolo-[1,2-a]pyrazinium-2-yl)methyl-3-cephem-4-carboxylate | yield: 93% | NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=3N(C=C2)C=CC3)C(=O)[O-])C1=O | C15H14N4O3S
